US06506750B1
1-(Piperidin-4-yl)cyclohexanecarboxamide Hydrochloride
A mixture of 3 g of pyridin-4-ylacetonitrile hydrochloride in 50 ml of DMF is cooled to 0° C., 2.6 g of 60% sodium hydride in oil are added in small portions and the mixture is left stirring for 1 hour 30 minutes at RT. The reaction mixture is cooled on an ice bath, 2.7 ml of 1,5-dibromopentane are added dropwise and the mixture is left stirring for 48 hours at RT. The reaction mixture is poured over a saturated NH4Cl solution, extracted with ether, the organic phase washed three times with water, dried over MgSO4 and the solvent evaporated off under vacuum. The residue is chromatographed on H silica gel, eluting with DCM and then with the DCM/MeOH (98/2; v/v) mixture. 2.5 g of the expected product are obtained, m.p.=79° C.

reactant | pyridin-4-ylacetonitrile hydrochloride | 3 g | Cl.N1=CC=C(C=C1)CC#N
reactant | sodium hydride | 2.6 g | [H-].[Na+]
reactant | 1,5-dibromopentane | 2.7 ml | BrCCCCCBr | C5H10Br2
reactant | NH4Cl | [NH4+].[Cl-]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-(Piperidin-4-yl)cyclohexanecarboxamide Hydrochloride | 2.5 g | Cl.N1CCC(CC1)C1(CCCCC1)C(=O)N | InChI=1S/C12H22N2O.ClH/c13-11(15)12(6-2-1-3-7-12)10-4-8-14-9-5-10;/h10,14H,1-9H2,(H2,13,15);1H
